US07985763B2
To a solution of 5-[5-(naphthalen-1-yloxy)-pentyloxy]-quinoline (0.83 g, 2.32 mmol) in 10 mL methanol and 1 mL THF was added sodium borohydride (0.35 g, 9.29 mmol) and nickel (II) chloride hexahydrate (0.28 g, 1.16 mmol). The reaction mixture was stirred overnight at room temperature and then 20 mL saturated aqueous ammonium chloride solution was added. The solution was extracted with ethyl acetate (3×20 mL), and the combined organic phases were washed with brine, dried over MgSO4, and concentrated to give a white solid. The crude product was purified by silica gel chromatography to give 5-[5-(naphthalen-1-yloxy)-pentyloxy]-1,2,3,4-tetrahydro-quinoline (335 mg, 0.93 mmol, 40%) as a white solid.

reactant | 5-[5-(naphthalen-1-yloxy)-pentyloxy]-quinoline | 2.32 mmol, 0.83 g | C1(=CC=CC2=CC=CC=C12)OCCCCCOC1=C2C=CC=NC2=CC=C1 | C24H23NO2
reactant | sodium borohydride | 9.29 mmol, 0.35 g | [BH4-].[Na+]
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | methanol | 10 mL | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | nickel (II) chloride hexahydrate | 1.16 mmol, 0.28 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | 5-[5-(naphthalen-1-yloxy)-pentyloxy]-1,2,3,4-tetrahydro-quinoline | 0.93 mmol, 335 mg, 40% | C1(=CC=CC2=CC=CC=C12)OCCCCCOC1=C2CCCNC2=CC=C1 | C24H27NO2
